US08748624B2
STEP C: methyl 5-(2-(bromomethyl)-5-chlorophenyl)picolinate
Solid benzoyl peroxide (496 mg, 2.0 mmol) was added to a benzene solution (50 mL) of methyl 5-(5-chloro-2-methylphenyl)picolinate (3.6 g, 13.6 mmol) and NBS (2.7 g, 15.0 mmol) and the resulting mixture was refluxed. After 16 h the resulting mixture was cooled, diluted with EtOAc, washed with water and brine, dried (Na2SO4), and dry packed onto silica gel. Column chromatography yielded the title compound.

reactant | benzoyl peroxide | 2.0 mmol, 496 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | benzene | 50 mL | C1=CC=CC=C1 | C6H6
reactant | methyl 5-(5-chloro-2-methylphenyl)picolinate | 13.6 mmol, 3.6 g | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)OC)C | C14H12ClNO2
reactant | NBS | 15.0 mmol, 2.7 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 5-(2-(bromomethyl)-5-chlorophenyl)picolinate | BrCC1=C(C=C(C=C1)Cl)C=1C=CC(=NC1)C(=O)OC | C14H11BrClNO2
